US05214037
A solution of (Z)-2-(2-aminothiazol-4-yl)-2-pentenoic acid methyl ester hydrochloride (550 mg : 2.2 mMol.) in dichloromethane (3 ml) is shaken with 7% aqueous sodium hydrogen carbonate (3.8 ml). The organic layer is taken and concentrated to 1.7 ml. The resulting solution is mixed with a solution of di-t-butyl dicarbonate (0.53 ml : 2.3 mMol.=1.05 equivalents) and pyridine (57μl : 0.72 mMol.) or dimethylaminopyridine (27 mg : 0.22 mMol.) in dichloromethane (0.8 ml) and stirred at 25° C. for 6 hours. The reaction mixture is mixed with 1.6% hydrochloric acid (1.72 ml) and stirred. The organic layer is taken, washed with aqueous sodium hydrogen carbonate, dried, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography to give (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2- pentenoic acid methyl ester (528 mg) as oil. Yield: 71%.

reactant | (Z)-2-(2-aminothiazol-4-yl)-2-pentenoic acid methyl ester hydrochloride | 2.2 mMol, 550 mg | Cl.COC(\C(=C/CC)\C=1N=C(SC1)N)=O
reactant | sodium hydrogen carbonate | 3.8 ml | C(O)([O-])=O.[Na+]
reactant | di-t-butyl dicarbonate | 2.3 mMol, 0.53 ml, 1.05 equivalents | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 0.72 mMol, 57μl | N1=CC=CC=C1 | C5H5N
reactant | dimethylaminopyridine | 0.22 mMol, 27 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | hydrochloric acid | 1.72 ml | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
product | (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2- pentenoic acid methyl ester | 528 mg, Yield: 71% | COC(\C(=C/CC)\C=1N=C(SC1)NC(=O)OC(C)(C)C)=O | C14H20N2O4S
